US04766115
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and isobutanol there is obtained isobutyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a resinous product, 1H-NMR(CDCl3): 1.07 [d, CH(CH3)2 ], 2.1 (m, 1H), 3.95 (d, CH2), 4.25 (s, 4H), 4.55 (broad s, NH), 7.3-7.7 (8H);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | isobutanol | C(C(C)C)O | C4H10O
product | isobutyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC(C)C)=N | C19H22N2O
